US04459403
A solution of 1.16 g (0.010 of 6H-1,2,4-oxadiazin-3,5-(2H,4H)-dione, 5 mg of ammonium sulfate, 2.49 g (0.029 mole) of piperazine and 20 ml of hexamethyldisilazane in 40 ml of dry freshly distilled dioxane is refluxed for 17 hours. After cooling, the dioxane and hexamethyldisilazane are removed in vacuo and the syrupy residue is dried on a vacuum pump for 2 hours. The resulting semi-solid residue is triturated with 100 ml of petroleum ether and filtered to yield 0.78 g (42 percent) of 5-(1-piperazinyl)-6H-1,2,4-oxadiazin-3(2H)-one.

reactant | 6H-1,2,4-oxadiazin-3,5-(2H,4H)-dione | O1NC(NC(C1)=O)=O | C3H4N2O3
reactant | ammonium sulfate | 5 mg | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
reactant | piperazine | 0.029 mole, 2.49 g | N1CCNCC1 | C4H10N2
reactant | hexamethyldisilazane | 20 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5-(1-piperazinyl)-6H-1,2,4-oxadiazin-3(2H)-one | 0.78 g, 42 percent | N1(CCNCC1)C1=NC(NOC1)=O | C7H12N4O2
